US06939885B2
Synthesis of (2-amino-5-chloro-phenyl)-pyridin-3-yl-methanone
N-[4-chloro-2-(pyridine-3-carbonyl)-phenyl]-2,2-dimethyl-propionamide (0.65 g) was suspended in 5 mL of 70% H2SO4 and heated at 95° C. in oil bath overnight. After cooling to room temperature the solution was added drop wise with stirring to 20 mL of 40% NaOH solution placed in an ice-water bath. The fine yellow precipitate formed was collected by vacuum filtration, washed well with water and dried under vacuum to give 370 mg of product. 1H NMR (CDCl3) δ 8.84 (dd, J=2.4 Hz, 0.8 Hz, 1H) 8.77 (dd, J=4.8 Hz, 2.0 Hz, 1H) 7.93 (dt, J=8.4 Hz, 2.0 Hz, 1H) 7.43 (m, 1H) 7.35 (d, J=2.0 Hz, 1H) 7.25 (d, J=0.8 Hz, 1H) 6.71 (d, J=8.8 Hz, 1H) 6.21 (s, 2H) MS (ES) m/z=233.0 (MH)+.

reactant | N-[4-chloro-2-(pyridine-3-carbonyl)-phenyl]-2,2-dimethyl-propionamide | 0.65 g | ClC1=CC(=C(C=C1)NC(C(C)(C)C)=O)C(=O)C=1C=NC=CC1 | C17H17ClN2O2
reactant | NaOH | 20 mL | [OH-].[Na+]
solvent | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
product | (2-amino-5-chloro-phenyl)-pyridin-3-yl-methanone | 370 mg | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC=CC1 | C12H9ClN2O
